US05106845
A flask containing 2-methylthio-1,4,5,6,7,8-hexahydro-1,3-diazocine hydroiodide (3.00 g, 1.05×10-2 mole) and 2,2-diphenylethylamine (2.08 g, 1.05×10-2 mole) was immersed in an oil bath which had been preheated to ca. 155° C. The reaction was stirred at between 150°-160° C. for ca. 1 hour. The resulting yellow glass was dissolved in methanol. The methanol was evaporated leaving a foam which was dissolved in a two phase mixture of 5 molar aqueous NaOH (65 ml) and CH2Cl2 (60 ml). After stirring overnight the CH2Cl2 layer was separated. The aqueous alkaline layer was extracted with CH2Cl2 (2×). The CH2Cl2 layers were combined, washed with H2O (2×), washed with saturated aqueous NaCl, and dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving a foam. The foam was dissolved in methanol (15 ml) and the solution was cooled to 0° C. This solution was then treated with a methanolic solution of HCl. The solution was treated with charcoal which was subsequently removed by filtration through a pad of celite. The filtrate was concentrated on the steam bath and 2-butanone was added periodically until the temperature of the solution reached ca. 80° C. Upon cooling the solution deposited a solid which was collected by filtration. This material was recrystallized two times from methanol/2-butanone affording 2-(2,2-diphenylethylamino)-1,4,5,6,7,8-hexahydro-1,3-diazocine hydrochloride as an off-white solid: 0.80 g (22%), m.p. 195°-197° C.

reactant | 2-methylthio-1,4,5,6,7,8-hexahydro-1,3-diazocine hydroiodide | 1.05×10-2 mole, 3.00 g | I.CSC=1NCCCCCN1
reactant | 2,2-diphenylethylamine | 1.05×10-2 mole, 2.08 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | HCl | Cl | ClH
reactant | charcoal | C | CH4
solvent | methanol | CO | CH4O
solvent | NaOH | 5 molar, 65 ml | [OH-].[Na+]
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 15 ml | CO | CH4O
product | 2-(2,2-diphenylethylamino)-1,4,5,6,7,8-hexahydro-1,3-diazocine hydrochloride | Cl.C1(=CC=CC=C1)C(CNC=1NCCCCCN1)C1=CC=CC=C1 | InChI=1S/C20H25N3.ClH/c1-4-10-17(11-5-1)19(18-12-6-2-7-13-18)16-23-20-21-14-8-3-9-15-22-20;/h1-2,4-7,10-13,19H,3,8-9,14-16H2,(H2,21,22,23);1H
